US06620817B1
Preparation of 4-chloro-6-phenyl-2-(4-trifluoromethylphenyl)pyrimidine:
A mixture of 6-phenyl-2-(4-trifluoromethylphenyl)-4-(3H)-pyrimidinone (10 g) and phosphorus oxychloride (7.3 g) was stirred at 80° C. for 3 hours. To the reaction mixture is added water, and the mixture is neutralized with an aqueous sodium hydroxide solution (1 mol/L). The precipitates are collected by filtration, washed with water, and recrystallized from isopropyl alcohol to give the desired compound (9.5 g).

reactant | 6-phenyl-2-(4-trifluoromethylphenyl)-4-(3H)-pyrimidinone | 10 g | C1(=CC=CC=C1)C1=CC(NC(=N1)C1=CC=C(C=C1)C(F)(F)F)=O | C17H11F3N2O
reactant | phosphorus oxychloride | 7.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 1 mol/L | [OH-].[Na+]
solvent | water | O | H2O
product | 4-chloro-6-phenyl-2-(4-trifluoromethylphenyl)pyrimidine | 9.5 g | ClC1=NC(=NC(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C17H10ClF3N2
